US04085210
To 5-(morpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (0.69 g) in anhydrous tetrahydrofuran was added sodium amide (0.20 g) at room temperature, and the resulting mixture was heated under reflux for 1.5 hours. After cooling, 2,2,2-trifluoroethyl trichloromethylsulfonate (0.666 g) in annydrous tetrahydrofuran was added to the mixture under ice-cooling, and then the mixture was heated under reflux for 11.5 hours. After cooling, water (0.2 g) was added thereto and inorganic materials were eliminated by filtration. The filtrate was evaporated and chromatographed to afford 5-[4-(2,2,2-trifluoroethyl)morpholin-2-yl]methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene as oily material. M.P., 174° - 177° C (hydrochloride).

reactant | 5-(morpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.69 g | N1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C20H21NO
reactant | sodium amide | 0.20 g | [NH2-].[Na+]
reactant | 2,2,2-trifluoroethyl trichloromethylsulfonate | 0.666 g | ClC(Cl)(Cl)S(=O)(=O)OCC(F)(F)F | C3H2Cl3F3O3S
reactant | water | 0.2 g | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-[4-(2,2,2-trifluoroethyl)morpholin-2-yl]methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | FC(CN1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)(F)F | C22H22F3NO
